US04439616
To a flask containing 59.30 g (789.92 mmoles) of molten methyl carbamate (85° C. oil bath) was added 260 mg (2.6 mmole) of conc.sulfuric acid. The temperature of the oil bath was then lowered to 60° C., and 14.79 g (93.61 mmoles) of m-DIPEB added dropwise to the reaction mixture. The reaction mixture was stirred 60° C. for 4.5 hours, and 500 mg of anhydrous sodium carbonate added to neutralize the acid catalyst. The mixture was stirred at 60° C. for another 30 minutes and then distilled under the vacuum 95°/30 mm Hg) to recover unreacted methyl carbamate (44.05 g; >90% recovery). GLC analyses of the white residue showed that m-TMXDU and m-TMU were formed in 65% and 24% yields, respectively. The solid was then mixed with 50 g of hexadecane and 1.66 g of heneicosane (GLC internal standard), and the mixture cracked at 265° C. for 4 hours. GLC analyses indicated that α,α,α',α'-tetramethyl meta-xylene diisocyanate (m-TMXDI) (45%), meta-isopropenyldimethylbenzene isocyanate (m-TMI) (10%) and α,α,α',α'-tetramethyl-meta-xylene monourethane monoisocyanate (m-TMXUI) (3%) were formed based on the m-DIPEB.

reactant | methyl carbamate | C(N)(OC)=O | C2H5NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | m-DIPEB | 93.61 mmoles, 14.79 g | CC(=C)C1=CC(=CC=C1)C(=C)C | C12H14
reactant | sodium carbonate | 500 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | hexadecane | 50 g | CCCCCCCCCCCCCCCC | C16H34
reactant | heneicosane | 1.66 g | CCCCCCCCCCCCCCCCCCCCC | C21H44
reactant | α,α,α',α'-tetramethyl meta-xylene diisocyanate | [N-]=C=O.[N-]=C=O.CC(C1=CC(=CC=C1)C(C)C)C
reactant | meta-isopropenyldimethylbenzene isocyanate | [N-]=C=O.C(=C)(C)C=1C(=C(C=CC1)C)C
product | α,α,α',α'-tetramethyl-meta-xylene monourethane monoisocyanate | 3% | [N-]=C=O.NC(=O)OCC.CC(C1=CC(=CC=C1)C(C)C)C | InChI=1S/C12H18.C3H7NO2.CNO/c1-9(2)11-6-5-7-12(8-11)10(3)4;1-2-6-3(4)5;2-1-3/h5-10H,1-4H3;2H2,1H3,(H2,4,5);/q;;-1
